US08193351B2
Proceeding in the same manner as in Step 2 of Example 205 and replacing N-methylamine hydrochloride and 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-propionic acid by ammonium chloride (963 mg, 18 mmol) and 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-2-methyl-propionic acid (1.5 g, 3.6 mmol) respectively, there was obtained 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-2-methyl-propionamide (978 mg, 65%) as a white solid.

reactant | 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-propionic acid | NC1=NC(=NC(=N1)C=1C(=CC=2COCC3=CC=CC1C23)Cl)SCCC(=O)O | C18H15ClN4O3S
reactant | ammonium chloride | 18 mmol, 963 mg | [Cl-].[NH4+]
reactant | 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-2-methyl-propionic acid | 3.6 mmol, 1.5 g | NC1=NC(=NC(=N1)C=1C(=CC=2COCC3=CC=CC1C23)Cl)SCC(C(=O)O)C | C19H17ClN4O3S
product | 3-[4-amino-6-(5-chloro-1H,3H-benzo[de]isochromen-6-yl)-[1,3,5]triazin-2-ylsulfanyl]-2-methyl-propionamide | 978 mg, 65% | NC1=NC(=NC(=N1)C=1C(=CC=2COCC3=CC=CC1C23)Cl)SCC(C(=O)N)C | C19H18ClN5O2S
